US06909003B2
To a solution of (E)-7-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3,5-dioxo-hept-6-enoic acid ethyl ester (600 mg, 1.347 mmol) in N,N-dimethylformamide (5 ml) under argon is added (1R,2R)-N-p-toluenesulfonyl-1,2-diphenylethylenediamine-RuII-pcymene complex [cf. above] (40 mg, 0.067 mmol) and formic acid-triethylamine 5:2 (v/v)-mixture (2 ml). After stirring at 50° C. for 30 min, triethylamine (4.7 ml, 33.79 mmol) is added to the orange, clear solution, and stirring is continued at 50° C. for 19 hours. Evaporation of the reaction mixture under reduced pressure, followed by silica gel chromatography (toluene/ethyl acetate 3:1) of the dried residue affords (E)-(3R,5S)-7-[2-Cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3,5-dihydroxy-hept-6-enoic acid ethyl ester. MS (EI): [M+]447, diastereomeric purity (syn/anti): 90.0/10.0%, enantiomeric purity (3R5S/3S5R): 80.0/20.0% (HPLC on ChiralPak AD-column).

reactant | (E)-7-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3,5-dioxo-hept-6-enoic acid ethyl ester | 1.347 mmol, 600 mg | C(C)OC(CC(CC(\C=C\C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C1CC1)=O)=O)=O | C27H24FNO4
reactant | formic acid-triethylamine | C(C)N(CC)CC.C(=O)O
reactant | triethylamine | 33.79 mmol, 4.7 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (E)-(3R,5S)-7-[2-Cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3,5-dihydroxy-hept-6-enoic acid ethyl ester | C(C)OC(C[C@@H](C[C@@H](\C=C\C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C1CC1)O)O)=O | C27H28FNO4
